US05708008
5-(phenoxycarbonyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole
Beginning with 10 mg (0.0437 mMol) 5-amino-3-(1-methyl-piperidin-4-yl)-1H-indole and 7.2 mg (0.0458 mMol) phenyl chloroformate, 13.9 mg (91%) of the title compound were recovered.

reactant | 5-amino-3-(1-methyl-piperidin-4-yl)-1H-indole | 0.0437 mMol, 10 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | phenyl chloroformate | 0.0458 mMol, 7.2 mg | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
product | 5-(phenoxycarbonyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole | 13.9 mg, 91% | O(C1=CC=CC=C1)C(=O)NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C21H23N3O2
